US04411911
A 1.0 g quantity of 1-diazo-2-pentanone is dissolved in 50 ml of chloroform, and 2.2 g of o-toluenesulfonic acid is slowly added to the solution. The same procedure as in Example 1 is thereafter repeated to afford 1.37 g of 2-oxopentyl-o-toluene sulfonate in the form of a transparent colorless oil (Compound 29).

reactant | 1-diazo-2-pentanone | [N+](=[N-])=CC(CCC)=O | C5H8N2O
reactant | o-toluenesulfonic acid | 2.2 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-oxopentyl-o-toluene sulfonate | 1.37 g, Yield 59.9% | O=C(COS(=O)(=O)C=1C(=CC=CC1)C)CCC | C12H16O4S
